US05686469
1-[2-(S)-[[2-(S)-Amino-1-oxo-3-cyclohexylpropyl]amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide
A solution of 1-[2-(S)-[[2-(S)-[[(1,1-dimethylethoxy)-carbonyl]amino]-1-oxo-3-cyclohexylpropyl]amino]-4-methylpentyl]-L-proline 4-phenylbutylamide (62.8 mg, 104 mmol) in dichloromethane (5 mL) was treated with trifluoroacetic acid (3.0 mL). After TLC indicated the reaction was complete, the mixture was concentrated to a residue, taken up in fresh dichloromethane (10 mL) and washed with satd. aq. NaHCO3 and dried (MgSO4). The solution was concentrated to an oil and chromatographed with acidic silica to provide 48.8 mg of the the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-[[2-(S)-[[(1,1-dimethylethoxy)-carbonyl]amino]-1-oxo-3-cyclohexylpropyl]amino]-4-methylpentyl]-L-proline 4-phenylbutylamide | 104 mmol, 62.8 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)=O)=O | C35H58N4O4
reactant | trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[2-(S)-[[2-(S)-Amino-1-oxo-3-cyclohexylpropyl]amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC([C@H](CC1CCCCC1)N)=O)=O | C30H50N4O2
